US09062070B2
Concentrated HNO3 (95%, 44 g, 0.62 mol) was added dropwise at 0-5° C. to the solution of 2-fluorophenol (64.6 g, 0.58 mol) in 1 L of DCM. The mixture was stirred at 0° C. for 1 hour before filtration. The filtrate was washed with water and brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography (DCM:PE=1:2) to afford 2-fluoro-6-nitrophenol.

reactant | HNO3 | 0.62 mol, 44 g | [N+](=O)(O)[O-] | HNO3
reactant | 2-fluorophenol | 0.58 mol, 64.6 g | FC1=C(C=CC=C1)O | C6H5FO
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | 2-fluoro-6-nitrophenol | FC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4FNO3
